US05824690
Synthesis of (R)-1-[2-[3-(3,4-dichloro-phenyl)-1-(4-methoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide
Prepare by the method of Example 88.6 using (S)-2-[3-(3,4-dichloro-phenyl)-1-(4-methoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate and 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride to give the title compound: Rf =0.35 (silica gel, 10% methanol/dichloromethane).

reactant | (S)-2-[3-(3,4-dichloro-phenyl)-1-(4-methoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate | ClC=1C=C(C=CC1Cl)[C@]1(CN(CC1)C(C1=CC=C(C=C1)OC)=O)CCCS(=O)(=O)[O-]
reactant | 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride | Cl.C1(=CC=CC=C1)C1(CCNCC1)C(=O)N
product | (R)-1-[2-[3-(3,4-dichloro-phenyl)-1-(4-methoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide | ClC=1C=C(C=CC1Cl)[C@@]1(CN(CC1)C(C1=CC=C(C=C1)OC)=O)CCN1CCC(CC1)(C(=O)N)C1=CC=CC=C1 | C32H35Cl2N3O3
